US07071201B2
Example 172: Synthesis of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-(2-thiazolyl)indoline
1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-bromoindoline (0.56 g) and 2-tributylstannylthiazole (2.778 g) synthesized in accordance with the method described in Synthesis, 757 (1986). were treated as in Production Example 13-2 to give the title compound (0.017 g) as pale yellow crystals (yield: 3.0%).

reactant | 1-[1-(4-Fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 0.56 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C21H24BrFN2
reactant | 2-tributylstannylthiazole | 2.778 g | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
product | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-(2-thiazolyl)indoline | 0.017 g, yield: 3.0% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)C=2SC=CN2)C=C1 | C24H26FN3S
